* NGSPICE file created from rev_toffoli.ext - technology: sky130A

.subckt rev_toffoli VDD VGND A B C A_OUT B_OUT C_OUT
X0 VDD B_OUT a_346_110# VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X1 a_436_110# A_OUT a_346_110# VGND sky130_fd_pr__nfet_01v8 ad=0.6 pd=4.6 as=0.6 ps=4.6 w=2 l=0.15
V0 B_OUT B 0.0
V1 A_OUT A 0.0
X2 VGND B_OUT a_436_110# VGND sky130_fd_pr__nfet_01v8 ad=0.6 pd=4.6 as=0.6 ps=4.6 w=2 l=0.15
X3 VDD a_346_110# a_958_110# VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X4 VDD C a_1264_110# VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X5 VGND a_346_110# a_958_110# VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X6 C a_958_110# C_OUT VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X7 VGND C a_1264_110# VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X8 a_1264_110# a_346_110# C_OUT VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X9 C a_346_110# C_OUT VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X10 VDD A_OUT a_346_110# VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X11 a_1264_110# a_958_110# C_OUT VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
.ends

